US07465815B2
tert-Butyl (7-bromo-3-hydroxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)carbamate
Using tert-butyl (7-bromo-2,2,4,6-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)carbamate obtained in Reference Example 66, the title compound was synthesized in the same manner as in Example 234. Yield: 98%. Melting point: 187-188° C. (ethyl acetate-hexane).

reactant | tert-butyl (7-bromo-2,2,4,6-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)carbamate | BrC1=C(C(=C(C=2C(C(OC21)(C)C)=O)C)NC(OC(C)(C)C)=O)C | C17H22BrNO4
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | tert-Butyl (7-bromo-3-hydroxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)carbamate | Yield: 98% | BrC1=C(C(=C(C=2C(C(OC21)(C)C)O)C)NC(OC(C)(C)C)=O)C | C17H24BrNO4
